US09120728B2
1-(3-fluoro-5-methylsulfonyl-phenoxy)-N-propyl-propan-2-amine
Sodium triacetoxyborohydride (1.16 g, 5.51 mmol) was added to a stirred mixture of 1-(3-fluoro-5-methylsulfonyl-phenoxy)propan-2-one (0.905 g, 3.67 mmol), propylamine (0.24 g, 4.04 mmol), acetic acid (0.5 g, 8.33 mmol) and molecular sieves (2 g, 4 Å, 4-8 mesh) in dry 1,2-dichloroethane (20 ml) the mixture was stirred at ambient temperature for 24 h, the suspension was filtrated and sodium carbonate (100 ml, 10% aqueous solution) was added. The aqueous phase was extracted with dichloromethane (3×50 ml). The combined organic phase was dried with Na2SO4 and evaporated. Purification on flash chromatography (ethyl acetate:methanol 1:0 to 4:1). 0.3 g, 28%. MS m/z (relative intensity, 70 eV) 289 (M+, 1), 260 (9), 152 (4), 87 (6), 86 (bp).

reactant | Sodium triacetoxyborohydride | 5.51 mmol, 1.16 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-(3-fluoro-5-methylsulfonyl-phenoxy)propan-2-one | 3.67 mmol, 0.905 g | FC=1C=C(OCC(C)=O)C=C(C1)S(=O)(=O)C | C10H11FO4S
reactant | propylamine | 4.04 mmol, 0.24 g | C(CC)N | C3H9N
reactant | acetic acid | 8.33 mmol, 0.5 g | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 1-(3-fluoro-5-methylsulfonyl-phenoxy)-N-propyl-propan-2-amine | FC=1C=C(OCC(C)NCCC)C=C(C1)S(=O)(=O)C | C13H20FNO3S
